US08071768B2
a). (4-Pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride
To a stirred solution of 4.9 g (30.4 mmol) of 4-pyrrolidin-1-yl-phenylamine in 70 mL of anhydrous THF at room temperature, was added dropwise a solution of 6.4 g (32 mmol) of 4-nitrophenyl chloroformate in 16 mL of anhydrous THF. After the addition was complete, the mixture was stirred for 1 h and then filtered. The precipitate was washed first with anhydrous THF (2×10 mL) and then with anhydrous DCM (3×10 mL) and dried in vacuo to yield 10 g of an off-white solid. 1H-NMR (300 MHz, CD3OD): 10.39 (s, 1H), 8.32 (d, 2H), 7.73 (d, 2H), 7.60 (d, 2H), 7.48 (d, 2H), 3.86-3.68 (bs, 4H), 2.35-2.24 (bs, 4H). LC/MS (ESI): 328 (MH)+.

reactant | 4-pyrrolidin-1-yl-phenylamine | 30.4 mmol, 4.9 g | N1(CCCC1)C1=CC=C(C=C1)N | C10H14N2
reactant | 4-nitrophenyl chloroformate | 32 mmol, 6.4 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | (4-Pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | 10 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCCC1)=O | InChI=1S/C17H17N3O4.ClH/c21-17(24-16-9-7-15(8-10-16)20(22)23)18-13-3-5-14(6-4-13)19-11-1-2-12-19;/h3-10H,1-2,11-12H2,(H,18,21);1H
